US04818756
Preparation of 1-(5-phenyl-2-pyrimidinyl)piperazine
0.04 mol of ethyl 1-(5-phenyl-2-pyrimidinyl)-4-piperazinecarboxylate are boiled under reflux with 0.78 mol of KOH in 400 ml of C2H5OH and 40 ml of H2O under N2 protective gas for 15 hours. The mixture is evaporated to dryness, water is added and the residue is taken up in CH2Cl2. After washing with water, the organic phase is separated off and evaporated to dryness, whereupon the amine is obtained as crystals.

reactant | ethyl 1-(5-phenyl-2-pyrimidinyl)-4-piperazinecarboxylate | 0.04 mol | C1(=CC=CC=C1)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OCC | C17H20N4O2
reactant | KOH | 0.78 mol | [OH-].[K+]
solvent | C2H5OH | 400 ml | C(C)O | C2H6O
solvent | H2O | 40 ml | O | H2O
product | 1-(5-phenyl-2-pyrimidinyl)piperazine | C1(=CC=CC=C1)C=1C=NC(=NC1)N1CCNCC1 | C14H16N4
